US08486946B2
Step 2: Preparation of ethyl 8-chloro-1-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-4-oxo-1,4-dihydrocinnoline-3-carboxylate
Ethyl 1-[(6-bromopyridin-3-yl)methyl]-8-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate (0.21 g, 0.49 mmol) was combined with (6-methylpyridin-3-yl) boronic acid (0.19 g, 1.2 mmol, 2.5 equiv), copper(I)chloride (48 mg, 0.49 mmol, 1 equiv), cesium carbonate (0.32 g, 0.97 mmol, 2 equiv), palladium(II)acetate (11 mg, 0.049 mmol, 0.1 equiv), and bis(diphenylphosphino)ferrocene (27 mg, 0.049 mmol, 0.1 equiv) in degassed N,N-dimethylformamide (3 mL). The mixture was placed into an oil bath preheated at 95° C. for 15 minutes, cooled to ambient temperature, diluted with water (5 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed once with water and brine, dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 1-[(6-bromopyridin-3-yl)methyl]-8-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 0.49 mmol, 0.21 g | BrC1=CC=C(C=N1)CN1N=C(C(C2=CC=CC(=C12)Cl)=O)C(=O)OCC | C17H13BrClN3O3
reactant | (6-methylpyridin-3-yl) boronic acid | 1.2 mmol, 0.19 g, 2.5 equiv | CC1=CC=C(C=N1)B(O)O | C6H8BNO2
reactant | cesium carbonate | 0.97 mmol, 0.32 g, 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
catalyst | copper(I)chloride | 0.49 mmol, 48 mg, 1 equiv | [Cu]Cl
catalyst | palladium(II)acetate | 0.049 mmol, 11 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | bis(diphenylphosphino)ferrocene | 0.049 mmol, 27 mg, 0.1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | ethyl 8-chloro-1-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-4-oxo-1,4-dihydrocinnoline-3-carboxylate | ClC=1C=CC=C2C(C(=NN(C12)CC=1C=CC(=NC1)C=1C=NC(=CC1)C)C(=O)OCC)=O | C23H19ClN4O3
